US05663334
a) 4-fluorophenyl-tolylthiomethylformamide
A solution of p-fluorobenzaldehyde (13.1 milliliters (hereinafter mL), 122 millimoles (hereinafter mmol) thiocresol (16.64 grams (hereinafter g), 122 mmol), formamide (15.0 mL, 445 mmol), and toluene (300 mL) were combined and heated to toluene reflux with azeotropic removal of H2O for 18 h. The cooled reaction was diluted with EtOAc (500 mL) and washed with said aq N2CO3 (3×100 mL), satd aq NaCl (100 mL), dried (N2SO4), and concentrated. The residue was triturated with petroleum ether, filtered and dried in vacuo to afford 28.50 g of the title compound as a white solid (85%). melting point (hereinafter top)=119°-120°.

reactant | p-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | thiocresol | 122 millimoles, 16.64 grams | C1(=CC=CC=C1S)C | C7H8S
reactant | formamide | 445 mmol, 15.0 mL | C(=O)N | CH3NO
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-fluorophenyl-tolylthiomethylformamide | 28.50 g, 85% | FC1=CC=C(C=C1)N(C=O)CSC1=C(C=CC=C1)C | C15H14FNOS
